US04269834
A solution of 15.15 g (0.1 mol) of 4-chloro-2-methylbenzonitrile in 40 ml of anhydrous tetrahydrofuran was added under a nitrogen atmosphere to a suspension of 0.2 mol of potassium amide in liquid ammonia at -33° C. After 10 minutes a solution of 15.7 g (0.15 mol) of 2-cyanopyridine in 60 ml of anhydrous tetrahydrofuran was added. The mixture was kept overnight (ca. 16 hours), during which time the ammonia evaporated, and it was then hydrolyzed with 200 ml of water. The tetrahydrofuran was subsequently distilled off and the aqueous residue was extracted with chloroform. After evaporation of the chloroform the crude product was sublimed at 220°-250° C. The sublimate was crystallized from chloroform, dissolved in diethyl ether and converted into the hydrochloride by addition of an ethereal solution of hydrogen chloride. The precipitate obtained was filtered off and twice crystallized from ethanol, to yield 1-amino-6-chloro-3-(2-pyridyl)isoquinoline hydrochloride, melting point 243° C.

reactant | 4-chloro-2-methylbenzonitrile | 0.1 mol, 15.15 g | ClC1=CC(=C(C#N)C=C1)C | C8H6ClN
reactant | potassium amide | 0.2 mol | [NH2-].[K+]
reactant | ammonia | N | H3N
reactant | 2-cyanopyridine | 0.15 mol, 15.7 g | C(#N)C1=NC=CC=C1 | C6H4N2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 1-amino-6-chloro-3-(2-pyridyl)isoquinoline hydrochloride | Cl.NC1=NC(=CC2=CC(=CC=C12)Cl)C1=NC=CC=C1 | InChI=1S/C14H10ClN3.ClH/c15-10-4-5-11-9(7-10)8-13(18-14(11)16)12-3-1-2-6-17-12;/h1-8H,(H2,16,18);1H
